US08487108B2
To a solution of (S)-2-amino-5-methoxy-5-oxopentanoic acid (100 g, 621 mmol) and NaHCO3 (133.5 g, 1.55 mol) in water (1.6 L) was added a solution of Boc2O (162.5 g, 745 mmol) in 1,4-dioxane (1.6 L). The mixture was stirred for 32 h at rt and then was filtered and washed with Et2O (500 mL). The aqueous layer was acidified with 1 N aqueous HCl to pH=2 and was extracted with methylene chloride and propan-2-ol (1:3, 1 L×2). The extract was washed with brine (500 mL), dried over MgSO4, filtered and concentrated in vacuo to give (S)-2-(tert-butoxycarbonylamino)-5-methoxy-5-oxopentanoic acid (112 g, yield 84%) as an oil that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 3.69 (s, 3H), 4.33 (m, 1H), 2.475 (m, 2H), 2.23 (m, 1H), 2.05 (m, 1H), 1.445 (s, 9H).

reactant | (S)-2-amino-5-methoxy-5-oxopentanoic acid | 621 mmol, 100 g | N[C@H](C(=O)O)CCC(=O)OC | C6H11NO4
reactant | NaHCO3 | 1.55 mol, 133.5 g | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 745 mmol, 162.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1.6 L | O | H2O
solvent | 1,4-dioxane | 1.6 L | O1CCOCC1 | C4H8O2
product | (S)-2-(tert-butoxycarbonylamino)-5-methoxy-5-oxopentanoic acid | 112 g, yield 84% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC(=O)OC | C11H19NO6
